US06323200B1
Catalyst (0.10 g of 10% platinum on carbon) was added to a solution of 6-methyl-3-nitroquinolin-4-ol (1 g) in ethanol (25 mL) and ammonium hydroxide (0.5 mL). The mixture was reduced on a Parr apparatus at ambient temperature under a hydrogen atmosphere. The reaction mixture was filtered to remove the catalyst and then concentrated under vacuum. The residue was combined with water and heated. Hydrochloric acid was added dropwise until all of the solid had dissolved. Activated carbon was added to the solution. The mixture was filtered. Hydrochloric acid (2 mL of 12N) was added to the filtrate. This recrystallization was run three times to provide 0.50 g of 3-amino-6-methylquinolin-+4ol hydrochloride, m.p. >310° C. Analysis: Calculated for C10H10N2O.HCl: % C, 57.02; % H, 5.26; % N, 13.30; Found: % C, 56.92; % H, 5.16; % N, 13.24.

reactant | 6-methyl-3-nitroquinolin-4-ol | 1 g | CC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])O | C10H8N2O3
catalyst | platinum on carbon | 0.10 g | [Pt] | Pt
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
product | 3-amino-6-methylquinolin | 0.50 g | NC=1C=NC2=CC=C(C=C2C1)C | C10H10N2
